US07361660B2
a) 3-Chloro-4-quinolinecarboxaldehyde
A solution of selenium dioxide (1.90 g) in 1,4-dioxan (5 ml) and water (1.2 ml) was added dropwise over 15 min to a stirred solution of 3-chloro-4-methylquinoline (2.91 g) in 1,4-dioxan (10 ml) at 60-70° C. The mixture was heated at reflux for 6 h, allowed to warm to room temperature, then concentrated in vacuo. The residue was purified by column chromatography (SiO2), eluting with dichloromethane to 5% methanol in dichloromethane by a stepwise gradient, to give the sub-title compound as a yellow solid (1.19 g).

reactant | selenium dioxide | 1.90 g | [Se](=O)=O | O2Se
reactant | 3-chloro-4-methylquinoline | 2.91 g | ClC=1C=NC2=CC=CC=C2C1C | C10H8ClN
solvent | 1,4-dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.2 ml | O | H2O
solvent | 1,4-dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 3-Chloro-4-quinolinecarboxaldehyde | 1.19 g | ClC=1C=NC2=CC=CC=C2C1C=O | C10H6ClNO
